US08247610B2
a) 3,4,5-Trifluoro-N-methoxy-N-methyl-benzamide
Following the procedure of Example 29, step (b), reaction of 3,4,5-trifluoro-benzoic acid with N,O-dimethylhydroxylamine HCl in present of HOBT, EDA, TEA in DCM followed the column purification gave the title compound; Calcd MW 219.16. Found MH+ 220.1.

reactant | 3,4,5-trifluoro-benzoic acid | FC=1C=C(C(=O)O)C=C(C1F)F | C7H3F3O2
reactant | N,O-dimethylhydroxylamine HCl | Cl.CNOC
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 3,4,5-Trifluoro-N-methoxy-N-methyl-benzamide | FC=1C=C(C(=O)N(C)OC)C=C(C1F)F | C9H8F3NO2
